US05463069
A mixture of N-(3-(trifluoromethyl)phenyl)-N-(2-chloro-2-propenyl)cyanamide (168.67 g), methyl isobutyl ketone (674.70 g) and ammonium sulfide solution, yellow (518.77 g) having an S content of 6% was stirred at 50° C. for 9 hours. After cooling to 20° C., water (1774.70 g) was poured into the reaction mixture, which was then shaken and fractionated with a separatory funnel. The water layer was extracted twice with methyl isobutyl ketone (53.72 g×2). The combined methyl isobutyl ketone layer was washed with water (81.05 g) to give a methyl isobutyl ketone solution (938.58 g) of N-(3-(trifluoromethyl)phenyl)-N-(2-chloro-2-propenyl)thiourea.

reactant | N-(3-(trifluoromethyl)phenyl)-N-(2-chloro-2-propenyl)cyanamide | 168.67 g | FC(C=1C=C(C=CC1)N(C#N)CC(=C)Cl)(F)F | C11H8ClF3N2
reactant | methyl isobutyl ketone | 674.70 g | C(C(C)C)C(=O)C | C6H12O
reactant | ammonium sulfide | [NH4+]=S
solvent | water | 1774.70 g | O | H2O
product | N-(3-(trifluoromethyl)phenyl)-N-(2-chloro-2-propenyl)thiourea | FC(C=1C=C(C=CC1)N(C(=S)N)CC(=C)Cl)(F)F | C11H10ClF3N2S
